US08334287B2
4-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one
The title compound, white crystalline solid, MS: m/e=325.2, 327.1 (M+H+), was prepared in accordance with the general method of example 2 from 4-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one and methyl iodide.

reactant | 4-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-1H-pyridin-2-one | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC(NC=C1)=O)C | C16H11ClN4O
reactant | methyl iodide | CI | CH3I
product | 4-[4-(2-chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-1-methyl-1H-pyridin-2-one | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=CC(N(C=C1)C)=O)C | C17H13ClN4O
